US05416211
N-[4-[2-[2-Amino-4,7-dihydro-4-oxo-3H-pyrrolo[2,3-d]pyrimidin-5 -yl]ethyl]benzoyl]glutamic acid dimethyl ester
To 2.00 g (6.74 mmol) of 4-[2-(2-amino-4,7-dihydro-4-oxo-3H-pyrrolo[2,3-d]pyrimidin-5-yl)ethyl]benzoic acid, prepared in Preparation 4, in 23 ml dimethylformamide under nitrogen was added 1.40 g (13.8 mmol) of N-methylmorpholine and 1.17 g (6.70 mmol) of 4-chloro-2,6-dimethoxytriazine. The formation of the active ester was monitored by the HPLC analysis of aliquots. After 40 minutes at room temperature 0.70 g (6.9 mmol) of N-methylmorpholine was added followed by 1.56 g (7.37 mmol) L-glutamic acid dimethyl ester hydrochloride. After 30 minutes HPLC analysis indicated substantially complete consumption of the active ester and formation of N-[4-[2-[2-Amino-4,7-dihydro-4-oxo-3H-pyrrolo[2,3-d]pyrimidin-5-yl]ethyl]benzoyl]glutamic acid dimethyl ester. The reaction mixture was filtered and the above product concentrated and purified by silica chromatography (elution 1:4 methanol:methylene chloride). The pure fractions were pooled and provided 1.30 g of the above product in a yield of 43 percent. 1H NMR (DMSO-d6) δ2.01 (m, 2H), 2.40 (t, J= 7.4 Hz, 2H), 2.80 (m, 2H), 2.92 (m, 2H), 3.53 (s, 3H), 3.59 (s, 3H), 4.40 (m, 1H), 5.99 (s, 2H), 6.26 (d, J=1.9 Hz, 1H), 7.23 (d, J=8.2 Hz, 2H), 7.73 (d, J=8.2 Hz, 2H), 8.62 (d, J=7.5 Hz, 1H), 10.15 (s, 1H), 10.57 (d, J=1.9 Hz, 1H).

reactant | 4-[2-(2-amino-4,7-dihydro-4-oxo-3H-pyrrolo[2,3-d]pyrimidin-5-yl)ethyl]benzoic acid | 6.74 mmol, 2.00 g | NC=1NC(C2=C(N1)NC=C2CCC2=CC=C(C(=O)O)C=C2)=O | C15H14N4O3
reactant | N-methylmorpholine | 13.8 mmol, 1.40 g | CN1CCOCC1 | C5H11NO
reactant | 4-chloro-2,6-dimethoxytriazine | 6.70 mmol, 1.17 g | ClC1=NN(NC(=C1)OC)OC | C5H8ClN3O2
reactant | N-methylmorpholine | 6.9 mmol, 0.70 g | CN1CCOCC1 | C5H11NO
reactant | L-glutamic acid dimethyl ester hydrochloride | 7.37 mmol, 1.56 g | Cl.COC([C@@H](N)CCC(=O)OC)=O
solvent | dimethylformamide | 23 ml | CN(C=O)C | C3H7NO
product | N-[4-[2-[2-Amino-4,7-dihydro-4-oxo-3H-pyrrolo[2,3-d]pyrimidin-5 -yl]ethyl]benzoyl]glutamic acid dimethyl ester | 1.30 g, yield of 43 percent | COC([C@@H](NC(C1=CC=C(C=C1)CCC1=CNC=2N=C(NC(C21)=O)N)=O)CCC(=O)OC)=O | C22H25N5O6
